US08455477B2
Methyl (2Z)-2-[(dimethylamino)methylene]-3-oxopentanoate (383 mg, 2.07 mmol) and phenylhydrazine (0.308 ml, 3.10 mmol) were added to ethanol (4 ml). The reaction mixture was heated to 150° C. in the Biotage Initiator Series microwave. After 30 minutes, the reaction mixture was cooled and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/hexanes gradient) to afford methyl 5-ethyl-1-phenyl-1H-pyrazole-4-carboxylate.

reactant | Methyl (2Z)-2-[(dimethylamino)methylene]-3-oxopentanoate | 2.07 mmol, 383 mg | CN(C)\C=C(/C(=O)OC)\C(CC)=O | C9H15NO3
reactant | phenylhydrazine | 3.10 mmol, 0.308 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | methyl 5-ethyl-1-phenyl-1H-pyrazole-4-carboxylate | C(C)C1=C(C=NN1C1=CC=CC=C1)C(=O)OC | C13H14N2O2
